US09314468B2
Preparation of (S)-tert-butyl 5-amino-6-oxo-6-(pyridin-2-ylmethyl-amino)hexylcarbamate (28).
To a solution of (S)-benzyl 6-((tert-butoxycarbonyl)-amino)-1-oxo-1-(pyridin-2-ylmethylamino)hexan-2-ylcarbamate, 27, (3.8 g, 8.2 mmol) in methanol (80 mL) was added palladium (10 wt % on carbon, 0.5 g). The mixture was stirred under a hydrogen atmosphere for 2 h. The mixture was filtered through Celite and washed with methanol. The resulting filtrate was concentrated in vacuo. The crude residue was used without further purification: ESI+ MS: m/z (rel intensity) 337.2 (100, [M+H]+).

reactant | (S)-benzyl 6-((tert-butoxycarbonyl)-amino)-1-oxo-1-(pyridin-2-ylmethylamino)hexan-2-ylcarbamate | C(C)(C)(C)OC(=O)NCCCC[C@@H](C(NCC1=NC=CC=C1)=O)NC(OCC1=CC=CC=C1)=O | C25H34N4O5
solvent | methanol | 80 mL | CO | CH4O
catalyst | palladium | 0.5 g | [Pd] | Pd
product | (S)-tert-butyl 5-amino-6-oxo-6-(pyridin-2-ylmethyl-amino)hexylcarbamate | N[C@@H](CCCCNC(OC(C)(C)C)=O)C(NCC1=NC=CC=C1)=O | C17H28N4O3
